US09403801B2
Step 1) tert-butyl 9-((5-chloro-2-((1-methyl-1H-imidazol-4-yl)amino)pyrimidin-4-yl)amino)-3-azaspiro[5.5]undecane-3-carboxylate
To a solution of tert-butyl 3-[(2,5-dichloropyrimidin-4-yl)amino]-9-azaspiro[5.5]undecane-9-carboxylate (500 mg, 1.204 mmol), 1-methylimidazol-4-amine (176.1 mg, 1.813 mmol) and cesium carbonate (1.19 g, 3.65 mmol) in anhydrous dioxane (10 mL) were added BINAP (148.6 mg, 0.2386 mmol) and Pd(OAc)2 (54.1 mg, 0.241 mmol). The reaction was under an inert atmosphere and stirred at 150° C. under microwave irradiation for 2 h. The reaction solution was concentrated in vacuo and the residue was purified by silica gel column chromatography with (DCM/MeOH (v/v)=30/1) to give the title compound as a yellow solid (292 mg, 50.97%).

reactant | tert-butyl 3-[(2,5-dichloropyrimidin-4-yl)amino]-9-azaspiro[5.5]undecane-9-carboxylate | 1.204 mmol, 500 mg | ClC1=NC=C(C(=N1)NC1CCC2(CC1)CCN(CC2)C(=O)OC(C)(C)C)Cl | C19H28Cl2N4O2
reactant | 1-methylimidazol-4-amine | 1.813 mmol, 176.1 mg | CN1C=NC(=C1)N | C4H7N3
reactant | cesium carbonate | 3.65 mmol, 1.19 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | BINAP | 0.2386 mmol, 148.6 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(OAc)2 | 0.241 mmol, 54.1 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | tert-butyl 9-((5-chloro-2-((1-methyl-1H-imidazol-4-yl)amino)pyrimidin-4-yl)amino)-3-azaspiro[5.5]undecane-3-carboxylate | 292 mg, 50.97% | ClC=1C(=NC(=NC1)NC=1N=CN(C1)C)NC1CCC2(CCN(CC2)C(=O)OC(C)(C)C)CC1 | C23H34ClN7O2
